US08486970B2
To a mixture of 990 mg of 4-methoxybenzyl (3-{2-[({(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-hydroxycyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl}carbonyl)amino]ethyl}phenyl)acetate and 10 ml of ethylene chloride was added 10 ml of trifluoroacetic acid at room temperature, followed by stirring for 4 hours. The reaction solution was concentrated under reduced pressure. The residue was dissolved in 20 mL of methanol, and 20 mL of a saturated aqueous sodium hydrogen carbonate solution was added thereto at room temperature, followed by stirring for 30 minutes. The organic solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and neutralized with 1 M hydrochloric acid. The product was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain 339 mg of (3-{2-[({(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-hydroxycyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl}carbonyl)amino]ethyl}phenyl)acetic acid as a colorless solid.

reactant | 4-methoxybenzyl (3-{2-[({(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-hydroxycyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl}carbonyl)amino]ethyl}phenyl)acetate | 990 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NCCC=1C=C(C=CC1)CC(=O)OCC1=CC=C(C=C1)OC)=O)C1C(CCCC1)O | C40H40Cl2N2O6
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethylene chloride | 10 ml | C(CCl)Cl | C2H4Cl2
product | (3-{2-[({(3RS,4RS)-3-(2,4-dichlorophenyl)-2-[(1SR,2SR)-2-hydroxycyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl}carbonyl)amino]ethyl}phenyl)acetic acid | 339 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NCCC=1C=C(C=CC1)CC(=O)O)=O)C1C(CCCC1)O | C32H32Cl2N2O5
